US08183381B2
Step 2: (1-(1-(5-Ethylpyrimidin-2-yl)piperidin-4-yl)-5-(trifluoromethyl)-1H-pyrazol-4-yl)methanol
The title compound was synthesized using ethyl 1-(1-(5-ethylpyrimidin-2-yl)piperidin-4-yl)-5-(trifluoromethyl)-1H-pyrazole-4-carboxylate and sodium borohydride in a manner similar to that described in Example 66, Step 2.

reactant | ethyl 1-(1-(5-ethylpyrimidin-2-yl)piperidin-4-yl)-5-(trifluoromethyl)-1H-pyrazole-4-carboxylate | C(C)C=1C=NC(=NC1)N1CCC(CC1)N1N=CC(=C1C(F)(F)F)C(=O)OCC | C18H22F3N5O2
reactant | sodium borohydride | [BH4-].[Na+]
product | (1-(1-(5-Ethylpyrimidin-2-yl)piperidin-4-yl)-5-(trifluoromethyl)-1H-pyrazol-4-yl)methanol | C(C)C=1C=NC(=NC1)N1CCC(CC1)N1N=CC(=C1C(F)(F)F)CO | C16H20F3N5O
